US07074800B1
Using a procedure identical to that described in Example 237, 4-chloro-6-methoxy-7-(3-(pyrrolidin-1-yl)propoxy)quinazoline (2 g, 6.22 mmol), (prepared as described for the starting material in Example 9), was reacted with 4-fluoro-5-hydroxy-2-methylindole (1.23 g, 7.46 mmol), (prepared as described for the starting material in Example 237), to give 4-(4-fluoro-2-methylindol-5-yloxy)-6-methoxy-7-(3-(pyrrolidin-1-yl)propoxy)quinazoline (1.41 g, 50%).

reactant | 4-chloro-6-methoxy-7-(3-(pyrrolidin-1-yl)propoxy)quinazoline | 6.22 mmol, 2 g | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCC1 | C16H20ClN3O2
reactant | 4-fluoro-5-hydroxy-2-methylindole | 7.46 mmol, 1.23 g | FC1=C2C=C(NC2=CC=C1O)C | C9H8FNO
product | 4-(4-fluoro-2-methylindol-5-yloxy)-6-methoxy-7-(3-(pyrrolidin-1-yl)propoxy)quinazoline | 1.41 g, 50% | FC1=C2C=C(NC2=CC=C1OC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCC1)C | C25H27FN4O3
